US08957064B2
2-methyl-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine
418.6 mg (1.53 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 12 mL NMP. After addition of 0.43 mL (3.05 mmol) triethylamine the reaction mixture is stirred for one hour. 435 mg (1.38 mmol) 4-(2-Methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde and 0.19 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 706.1 mg (3.33 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature over the weekend. The reaction mixture is treated with saturated NaHCO3 and stirred for two hours. The precipitate is filtered off, washed with water, dried and purified by chromatography (silicagel, eluents: dichloromethane/methanol) yielding 182.1 mg (24%) of the title compound.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 1.53 mmol, 418.6 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | triethylamine | 3.05 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-Methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 1.38 mmol, 435 mg | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C1 | C20H15N3O
reactant | NaBH(OAc)3 | 3.33 mmol, 706.1 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 12 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.19 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidine | 182.1 mg, 24% | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2)C1 | C30H26N8
